### PR TITLE
[Merged by Bors] - chore(L1Space/HasFiniteIntegral): generalise a few lemmas to enorm

### PR DESCRIPTION
**Pull request by grunweg**
These are necessary to speak about `IntegrableOn` well. Similarly to previous PRs, when a statement needs more than trivial changes, this PR just adds enorm analogues (without deprecating existing lemmas) and tries to golf the existing version in terms of the enorm result.
(In this PR, I chose to not always golf one-line proofs. For multi-line proofs, this PR shows that work can really be re-used.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean [hunk 1]
```diff
@@ -117,39 +117,73 @@ theorem HasFiniteIntegral.mono {f : α → β} {g : α → γ} (hg : HasFiniteIn
       lintegral_mono_ae (h.mono fun a h => ofReal_le_ofReal h)
     _ < ∞ := hg
 
+-- XXX: this naming scheme is non-ideal!
+theorem HasFiniteIntegral.mono_e {f : α → ε} {g : α → ε'} (hg : HasFiniteIntegral g μ)
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:121]: Probably follow the naming scheme of [MeasureTheory.eLpNorm_mono_enorm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSeminorm/Basic.html#MeasureTheory.eLpNorm_mono_enorm) for now.

Comment (urkud) [reply Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:121]: I agree, we should prefer readability to saving keystrokes.

Comment (grunweg) [reply Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean]: Done!

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean [hunk 2]
```diff
@@ -117,39 +117,72 @@ theorem HasFiniteIntegral.mono {f : α → β} {g : α → γ} (hg : HasFiniteIn
...
+    (h : ∀ᵐ a ∂μ, ‖f a‖ₑ ≤ g a) : HasFiniteIntegral f μ :=
+  hg.mono_enorm <| h.mono fun _x hx ↦ le_trans hx le_rfl
+
 theorem HasFiniteIntegral.congr' {f : α → β} {g : α → γ} (hf : HasFiniteIntegral f μ)
     (h : ∀ᵐ a ∂μ, ‖f a‖ = ‖g a‖) : HasFiniteIntegral g μ :=
   hf.mono <| EventuallyEq.le <| EventuallyEq.symm h
 
+theorem HasFiniteIntegral.congr'_enorm {f : α → ε} {g : α → ε'} (hf : HasFiniteIntegral f μ)
+    (h : ∀ᵐ a ∂μ, ‖f a‖ₑ = ‖g a‖ₑ) : HasFiniteIntegral g μ :=
+  hf.mono_enorm  <| EventuallyEq.le <| EventuallyEq.symm h
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:141]:
```suggestion
  hf.mono_enorm <| EventuallyEq.le <| EventuallyEq.symm h
```

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean [hunk 3]
```diff
@@ -117,39 +117,72 @@ theorem HasFiniteIntegral.mono {f : α → β} {g : α → γ} (hg : HasFiniteIn
...
     HasFiniteIntegral f μ ↔ HasFiniteIntegral g μ :=
-  hasFiniteIntegral_congr' <| h.fun_comp norm
+  hasFiniteIntegral_congr'_enorm <| h.fun_comp enorm
 
 theorem hasFiniteIntegral_const_iff {c : β} :
     HasFiniteIntegral (fun _ : α => c) μ ↔ c = 0 ∨ IsFiniteMeasure μ := by
   simp [hasFiniteIntegral_iff_enorm, lintegral_const, lt_top_iff_ne_top, ENNReal.mul_eq_top,
     or_iff_not_imp_left, isFiniteMeasure_iff]
 
+theorem hasFiniteIntegral_const_iff_enorm {c : ε} (hc : ‖c‖ₑ ≠ ⊤) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:164]:
```suggestion
theorem hasFiniteIntegral_const_iff_enorm {c : ε} (hc : ‖c‖ₑ ≠ ∞) :
```
Same thing below.

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean [hunk 4]
```diff
@@ -160,51 +193,55 @@ theorem hasFiniteIntegral_of_bounded [IsFiniteMeasure μ] {f : α → β} {C : 
...
+theorem hasFiniteIntegral_zero_measure {m : MeasurableSpace α} (f : α → ε) :
     HasFiniteIntegral f (0 : Measure α) := by
   simp only [HasFiniteIntegral, lintegral_zero_measure, zero_lt_top]
 
-variable (α β μ)
-
+variable (α μ) in
 @[simp]
-theorem hasFiniteIntegral_zero : HasFiniteIntegral (fun _ : α => (0 : β)) μ := by
+theorem hasFiniteIntegral_zero {ε} [TopologicalSpace ε] [ENormedAddMonoid ε] :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:241]:
```suggestion
theorem hasFiniteIntegral_zero {ε : Type*} [TopologicalSpace ε] [ENormedAddMonoid ε] :
```
Otherwise it probably resolves to `Type _`.

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean [hunk 5]
```diff
@@ -253,6 +299,10 @@ theorem all_ae_tendsto_ofReal_norm (h : ∀ᵐ a ∂μ, Tendsto (fun n => F n a)
     ∀ᵐ a ∂μ, Tendsto (fun n => ENNReal.ofReal ‖F n a‖) atTop <| 𝓝 <| ENNReal.ofReal ‖f a‖ :=
   h.mono fun _ h => tendsto_ofReal <| Tendsto.comp (Continuous.tendsto continuous_norm _) h
 
+theorem all_ae_tendsto_ofReal_norm' (h : ∀ᵐ a ∂μ, Tendsto (fun n ↦ F' n a) atTop <| 𝓝 <| f' a) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:302]:
```suggestion
theorem ae_tendsto_enorm (h : ∀ᵐ a ∂μ, Tendsto (fun n ↦ F' n a) atTop <| 𝓝 <| f' a) :
```
seems more reasonable, right? The naming of the previous lemmas looks also very weird, but it's probably not the role of this PR to fix these.

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean [hunk 6]
```diff
@@ -262,7 +312,15 @@ theorem all_ae_ofReal_f_le_bound (h_bound : ∀ n, ∀ᵐ a ∂μ, ‖F n a‖ 
   intro a tendsto_norm F_le_bound
   exact le_of_tendsto' tendsto_norm F_le_bound
 
-theorem hasFiniteIntegral_of_dominated_convergence {F : ℕ → α → β} {f : α → β} {bound : α → ℝ}
+theorem all_ae_ofReal_f_le_bound_enorm (h_bound : ∀ n, ∀ᵐ a ∂μ, ‖F' n a‖ₑ ≤ bound' a)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:315]:
```suggestion
theorem ae_enorm_le_bound (h_bound : ∀ n, ∀ᵐ a ∂μ, ‖F' n a‖ₑ ≤ bound' a)
```

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean [hunk 7]
```diff
@@ -277,7 +335,20 @@ theorem hasFiniteIntegral_of_dominated_convergence {F : ℕ → α → β} {f :
...
+    (h_lim : ∀ᵐ a ∂μ, Tendsto (fun n ↦ F' n a) atTop (𝓝 (f' a))) : HasFiniteIntegral f' μ := by
+  /- `‖F' n a‖ₑ ≤ bound' a` and `‖F' n a‖ₑ --> ‖f' a‖ₑ` implies `‖f a‖ₑ ≤ bound' a`,
+    and so `∫ ‖f'‖ₑ ≤ ∫ bound' < ∞` since `bound'` has finite integral -/
+  rw [hasFiniteIntegral_iff_enorm]
+  calc
+    (∫⁻ a, ‖f' a‖ₑ ∂μ) ≤ ∫⁻ a, bound' a ∂μ :=
+      lintegral_mono_ae <| all_ae_ofReal_f_le_bound_enorm h_bound h_lim
+    _ < ∞ := bound_hasFiniteIntegral
+
+-- TODO: generalise this `f` and `F` taking values in a new class `ENormedSubMonoid`
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:350]:
```suggestion
-- TODO: generalise this to `f` and `F` taking values in a new class `ENormedSubmonoid`
```

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:315]: That's better indeed! Should this name also contain `tendsto`?

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean]: :bulb:

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean]: I filed #24354 with some ideas for better names (only the last commit is new).

**Comment by grunweg** [comment]
@fpvandoorn This is one of the PRs we talked about earlier today. This should be quick to review: all changes are either
- trivial generalisations (replace \beta by \epsilon)
- copy-paste a lemma about norms, and make very minor modifications for enorms

**Review by fpvandoorn — APPROVED** [review]
LGTM

bors d+

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean [hunk 8]
```diff
@@ -253,6 +299,10 @@ theorem all_ae_tendsto_ofReal_norm (h : ∀ᵐ a ∂μ, Tendsto (fun n => F n a)
     ∀ᵐ a ∂μ, Tendsto (fun n => ENNReal.ofReal ‖F n a‖) atTop <| 𝓝 <| ENNReal.ofReal ‖f a‖ :=
   h.mono fun _ h => tendsto_ofReal <| Tendsto.comp (Continuous.tendsto continuous_norm _) h
 
+theorem ae_tendsto_enorm (h : ∀ᵐ a ∂μ, Tendsto (fun n ↦ F' n a) atTop <| 𝓝 <| f' a) :
+    ∀ᵐ a ∂μ, Tendsto (fun n ↦ ‖F' n a‖ₑ) atTop <| 𝓝 <| ‖f' a‖ₑ :=
+  h.mono fun _ h ↦ Tendsto.comp (Continuous.tendsto continuous_enorm _) h
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:294]: Yes, it is - I have changed the old lemma's proof to indicate this better.

While the lemma is only used once (in `all_ae_ofReal_f_le_bound`), replacing it is not utterly obvious --- as `bound` maps to R, while `bound'` maps to \ENNReal. This should be replaced, but I'd like this to happen in a follow-up PR.

**Comment by grunweg** [comment]
By the way: thanks for the fast review on the other PR and this one!

**Comment by grunweg** [comment]
Since CI passes, let's get this in!
bors r+

File: Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/L1Space/HasFiniteIntegral.lean:294]: [This branch](https://github.com/leanprover-community/mathlib4/tree/MR-hasfiniteintegral-deprecate) indicates which lemmas are involved in doing such a deprecation. Seems possible, but more work than just two lemmas.
